US05698546
4-Methoxy-2,6-bis(chloromethyl)pyridine
To a stirred solution of 4-methoxy-2,6-bis(hydroxymethyl)pyridine (2.89 g, 17.10 mmol)-and triethylamine (9.6 ml, 68.40 mmol) at 0° C. in 100 ml of anhydrous dichloromethane and 50 ml of chloroform under an argon atmosphere was added methanesulphonyl chloride (3.9 ml, 51.30 mmol). The solution was stirred at 0° C. for 30 minutes, warmed to room temperature and stirred a further 24 hours. Additional methanesulphonyl chloride (1.5 ml, 19.38 mmol) was added and the mixture was stirred at 50° C. for 24 hours. The reaction mixture was quenched with H2O (50 ml), the aqueous phase extracted with CH2Cl2, dried over MgSO4 and concentrated to afford an orange oil. The residual oil was passed through a short plug of silica gel using dichloromethane as eluent thus affording after concentration a pale yellow solid which was identified by 1H NMR as 4-methoxy-2,6-bis-(chloromethyl)pyridine (2.3 g, 66%).

reactant | 4-methoxy-2,6-bis(hydroxymethyl)pyridine | 17.10 mmol, 2.89 g | COC1=CC(=NC(=C1)CO)CO | C8H11NO3
reactant | triethylamine | 68.40 mmol, 9.6 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methanesulphonyl chloride | 51.30 mmol, 3.9 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulphonyl chloride | 19.38 mmol, 1.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Methoxy-2,6-bis(chloromethyl)pyridine | COC1=CC(=NC(=C1)CCl)CCl | C8H9Cl2NO
